*##########################################################################################
* Copyright (c) 2023 Dolphin Technology, Inc.
* This netlist is proprietary and confidential information of
* Dolphin Technology, Inc. and can only be used or viewed
* under license or with written permission from Dolphin Technology, Inc.
*##########################################################################################
* /data/projects/stdcells/scripts_svn_update_flow/Update_property_flow/lvsNetlist.pl -c dti_55g_6t_nand3hpx4 -p /data/projects/stdcells/scripts_svn_update_flow/Update_property_flow/params/params55.sp -s netlist -d lvs -nglob
* dt35-linux:/data/projects/stdcells/REPOSITORY_RV003/ckt/tsmc55 
* dti_55g_6t_nand3hpx4.ckt generated on 5/29/2023 at 13:8:16
*##########################################################################################
* Dependencies
*##########################################################################################

.param wnd=1u wpd=1u

.option scale=1

.global vdd vss vddps vddcs
* DAMN, don't know where the cell is 
.subckt dti_55g_6t_nand3hpx4 VDD VSS C A B Z
mp3 Z C VDD VDD pch l=0.06u w=0.23u m=4
mp1 Z A VDD VDD pch l=0.06u w=0.23u m=4
mp2 Z B VDD VDD pch l=0.06u w=0.23u m=4
mn1 Z A N1N43 VSS nch l=0.06u w=0.23u m=4
mn2 N1N43 B N1N71 VSS nch l=0.06u w=0.23u m=8
mn3 N1N71 C VSS VSS nch l=0.06u w=0.23u m=8
.ends

