
.param wnd=1u wpd=1u

.option scale=1


.subckt dti_55g_6t_nand2x1 VDD VSS Z A B
mn1 Z A N1N43 VSS nch l=0.06u w=0.23u
mn2 N1N43 B VSS VSS nch l=0.06u w=0.23u
mp1 Z A VDD VDD pch l=0.06u w=0.23u
mp2 Z B VDD VDD pch l=0.06u w=0.23u
.ends
