
.param wnd=1u wpd=1u

.option scale=1


.subckt dti_55g_6t_or2x1 VDD VSS B A Z
mn1 Z N1N47 VSS VSS nch l=0.06u w=0.23u
mn2 N1N47 A VSS VSS nch l=0.06u w=0.23u
mn3 N1N47 B VSS VSS nch l=0.06u w=0.23u
mp1 Z N1N47 VDD VDD pch l=0.06u w=0.23u
mp2 N1N47 A N1N71 VDD pch l=0.06u w=0.23u
mp3 N1N71 B VDD VDD pch l=0.06u w=0.23u
.ends
