* C:\Users\huytq0\Documents\LTspice_huytq0\Inverter.asc
M1 VDD IN OUT VDD PMOS l=65n w=2u
M2 OUT IN 0 0 NMOS l=65n w=2u
V1 VDD 0 0.7
V2 IN 0 PULSE(0v 0.7v 0n 0.1n 0.1n 4.9n 10n)
C1 OUT 0 10F
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\huytq0\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 60n 0 0.1n
.temp 27c
.lib 'C:\Users\huytq0\Documents\LTspice_huytq0\65nm_model.lib'
.meas Tpg trig v(in) val=0.7*0.5 rise=1 targ v(out) val=0.7*0.5 fall=1
.meas Trise trig v(out) val=0.7*0.2 rise=1 targ v(out)=0.7*0.8 rise=1
.meas Tfall trig v(out) val=0.7*0.8 fall=1 targ v(out)=0.7*0.2 fall=1
.backanno
.end
